US07060827B2
In like manner to the preparation of N2,N4-bis[N-(L)-tyrosine methyl ester]-5-ethoxycarbonylpyrimidine, the reaction of 2,4-dichloro-5-ethoxycarbonylpyrimidine with 3,4-ethylenedioxyaniline gave N2,N4-bis(3,4-ethylenedioxyphenyl)-5-ethoxycarbonyl-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 10.01 (s, 1H), 9.65 (bs, 1H), 8.62 (s, 1H), 7.18 (bs, 2H), 7.04 (dd, 1H, J=1.8 and 8.7 Hz), 6.93 (d, 1H, J=7.5 Hz), 6.76 (d, 1H, J=8.7 Hz), 6.65 (d, 1H, J=8.7 Hz), 4.28 (q, 2H, J=6.9 Hz), 1.31 (t, 3H, J=7.2 Hz); LCMS: ret. time: 27.25 min.; purity: 100%; MS (m/e): 451 (MH+).

reactant | 2,4-dichloro-5-ethoxycarbonylpyrimidine | ClC1=NC=C(C(=N1)Cl)C(=O)OCC | C7H6Cl2N2O2
reactant | 3,4-ethylenedioxyaniline | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
product | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-ethoxycarbonyl-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)C(=O)OCC | C23H22N4O6
